* Z:\mnt\design.r\spice\examples\2064.asc
V1 +V 0 1.8
R2 OUT N001 10Meg
R1 N001 0 100K
R3 N003 N002 100K
R4 N002 0 100
I1 0 N002 100µ
V2 N004 0 PULSE(0 1.8 42m 10n 10n 8m 100m)
XU1 N003 N001 OUT +V 0 N004 LTC2063
.tran 400m
* Oxygen\nSensor
.lib LTC3.lib
.backanno
.end
